### PR TITLE
[Merged by Bors] - feat(OpenPartialHomeomorph): add missing `simp` lemmas

### PR DESCRIPTION
**Pull request by urkud**
I found missing lemmas about `restrOpen` while working on https://github.com/urkud/SardMoreira.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/OpenPartialHomeomorph.lean [hunk 1]
```diff
@@ -608,12 +609,37 @@ def ofContinuousOpenRestrict (e : PartialEquiv X Y) (hc : ContinuousOn e e.sourc
...
   continuousOn_invFun := e.image_source_eq_target ▸ ho.continuousOn_image_of_leftInvOn e.leftInvOn
 
+@[simp]
+theorem coe_ofContinuousOpenRestrict (e : PartialEquiv X Y) (hc : ContinuousOn e e.source)
+    (ho : IsOpenMap (e.source.restrict e)) (hs : IsOpen e.source) :
+    ⇑(ofContinuousOpenRestrict e hc ho hs) = e :=
+  rfl
+
+@[simp]
+theorem coe_symm_ofContinuousOpenRestrict (e : PartialEquiv X Y) (hc : ContinuousOn e e.source)
```
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph.lean]: The other lemmas in this file use the `coe_foo_symm` scheme. To my eyes, that seems a bit more logical.
Do you prefer the current one (if so, why)? If not, can you switch to the other, please?

File: Mathlib/Topology/OpenPartialHomeomorph.lean [hunk 2]
```diff
@@ -608,12 +609,37 @@ def ofContinuousOpenRestrict (e : PartialEquiv X Y) (hc : ContinuousOn e e.sourc
...
   ofContinuousOpenRestrict e hc (ho.restrict hs) hs
 
+@[simp]
+theorem coe_ofContinuousOpen (e : PartialEquiv X Y) (hc : ContinuousOn e e.source)
+    (ho : IsOpenMap e) (hs : IsOpen e.source) :
+    ⇑(ofContinuousOpen e hc ho hs) = e :=
+  rfl
+
+@[simp]
+theorem coe_symm_ofContinuousOpen (e : PartialEquiv X Y) (hc : ContinuousOn e e.source)
```
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph.lean]: Same here

File: Mathlib/Topology/OpenPartialHomeomorph.lean [hunk 3]
```diff
@@ -630,6 +656,11 @@ theorem restrOpen_toPartialEquiv (s : Set X) (hs : IsOpen s) :
 theorem restrOpen_source (s : Set X) (hs : IsOpen s) : (e.restrOpen s hs).source = e.source ∩ s :=
   rfl
 
+@[simp] theorem coe_restrOpen {s : Set X} (hs : IsOpen s) : ⇑(e.restrOpen s hs) = e := rfl
+
+@[simp]
+theorem coe_symm_restrOpen {s : Set X} (hs : IsOpen s) : ⇑(e.restrOpen s hs).symm = e.symm := rfl
```
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph.lean]: And here

**Review by grunweg — COMMENTED** [review]
Thanks! I only have one naming question, otherwise LGTM.

**Review by grunweg — COMMENTED** [review]
Thanks!
bors r+
